US04152510
By reaction with ammonia at about 0° C. to about 20° C., 4-chloro-3,5-dinitrobenzoic acid amide is obtained which is converted into 4-chloro-3,5-dinitrobenzonitrile by reaction with phosphorus oxychloride in boiling toluene. By reduction in boiling toluene/water with iron, 4-chloro-3,5-diaminobenzonitrile (melting point about 172° C.) is obtained in about 80% yield.

reactant | 4-chloro-3,5-dinitrobenzonitrile | ClC1=C(C=C(C#N)C=C1[N+](=O)[O-])[N+](=O)[O-] | C7H2ClN3O4
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | iron | [Fe] | Fe
solvent | toluene water | C1(=CC=CC=C1)C.O
product | 4-chloro-3,5-diaminobenzonitrile | about 80% yield | ClC1=C(C=C(C#N)C=C1N)N | C7H6ClN3
